*------------------------------------------------------------------------------
*------------------------------------------------------------------------------
.lib 'CD4007.lib' CD4007_L7a

*------------------------------------------------------------------------------

*------------------------------------------------------------------------------
.subckt nmos_t1 dr gt src subs 
  	X1 dr gt src subs CD4007n
.ends nmos_t1

*------------------------------------------------------------------------------
.subckt pmos_t1 dr gt src subs 
  	X1 dr gt src subs CD4007p
.ends pmos_t1

