* inverter state machine example
V1 1 0 pulse(0 1 0 1u 1u .5m 1m)
R1 2 0 1K ; an impedance for the .output statement
.machine
.output (2) V(1) < .5
.endmachine
.tran 3m
.end
